US05482971
One equivalent of 3,4-dihydroxybenzaldehyde, 1.1 equivalents of diethyl dibromomalonate and powdered potassium carbonate is stirred in acetonitrile at room temperature for 18 hours. The reaction mixture is filtered, evaporated in vacuo, and distilled to give diethyl 5-formyl-1,3-benzodioxole-2,2-dicarboxylate.

reactant | 3,4-dihydroxybenzaldehyde | One equivalent | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | diethyl dibromomalonate | 1.1 equivalents | BrC(C(=O)OCC)(C(=O)OCC)Br | C7H10Br2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | diethyl 5-formyl-1,3-benzodioxole-2,2-dicarboxylate | C(=O)C1=CC2=C(OC(O2)(C(=O)OCC)C(=O)OCC)C=C1 | C14H14O7
